US08629271B2
b) 2-(3-(2-Hydroxyethyl)phenoxy)acetaldehyde
Concentrated hydrochloric acid (1.5 mL) was added to a solution of 2-(3-(2,2-diethoxyethoxy)phenyl)ethanol (example 24 step a) (0.256 g) in 1,4-dioxane (3 mL) and the resulting mixture was stirred at room temperature for 1.5 hours. The solution was then diluted with water and extracted twice with ethyl acetate. The combined extracts were washed with brine, dried over anhydrous magnesium sulphate and concentrated in vacuo to afford the subtitled compound as a white foam. Yield 0.150 g.

reactant | hydrochloric acid | 1.5 mL | Cl | ClH
reactant | 2-(3-(2,2-diethoxyethoxy)phenyl)ethanol | C(C)OC(COC=1C=C(C=CC1)CCO)OCC | C14H22O4
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-(3-(2-Hydroxyethyl)phenoxy)acetaldehyde | OCCC=1C=C(OCC=O)C=CC1 | C10H12O3
